US07425551B2
(3,3,4,4,4-Pentafluoro-butyl)-carbamic acid (S)-1-[(S)-5-(2-benzyloxy-ethyl)-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-ylcarbamoyl]-ethyl ester
Using carbonic acid (S)-1-[(S)-5-(2-benzyloxy-ethyl)-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-ylcarbamoyl]-ethyl ester 4-nitro-phenyl ester and 3,3,4,4,4-pentafluorobutylamine, the title compound was prepared in the same manner as described for example 5c. White solid (97%). MS: m/e=620(M+H+).

reactant | carbonic acid (S)-1-[(S)-5-(2-benzyloxy-ethyl)-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-ylcarbamoyl]-ethyl ester 4-nitro-phenyl ester | [N+](=O)([O-])C1=CC=C(C=C1)OC(O[C@@H](C)C(N[C@H]1C2=C(C3=C(N(C1=O)CCOCC1=CC=CC=C1)C=CC=C3)C=CC=C2)=O)=O | C33H29N3O8
reactant | 3,3,4,4,4-pentafluorobutylamine | FC(CCN)(C(F)(F)F)F | C4H6F5N
product | (3,3,4,4,4-Pentafluoro-butyl)-carbamic acid (S)-1-[(S)-5-(2-benzyloxy-ethyl)-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-ylcarbamoyl]-ethyl ester | C(C1=CC=CC=C1)OCCN1C2=C(C3=C([C@@H](C1=O)NC(=O)[C@H](C)OC(NCCC(C(F)(F)F)(F)F)=O)C=CC=C3)C=CC=C2 | C31H30F5N3O5
